US06825191B2
Step 1: Synthesis of ethyl 5-chloropyridin-2-carboxylate
1.2 g (8.2 mmol) of 2,5-dichloropyridine was dissolved in 50 ml of acetonitrile. 1.46 g (9.7 mmol) of sodium iodide and 0.7 ml (9.7 mmol) of acetyl chloride were added to the obtained solution, and they were stirred at 50° C. overnight. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 15 ml of DMF. 182 mg (0.8 mmol) of palladium acetate, 147 mg (0.56 mmol) of triphenylphosphine, 2.3 ml of ethanol and 1.3 ml (9.7 mmol) of triethylamine were added to the obtained solution, and they were stirred in the presence of carbon monoxide at 70° C. overnight. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | 2,5-dichloropyridine | 8.2 mmol, 1.2 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | sodium iodide | 9.7 mmol, 1.46 g | [I-].[Na+]
reactant | acetyl chloride | 9.7 mmol, 0.7 ml | C(C)(=O)Cl | C2H3ClO
reactant | triphenylphosphine | 0.56 mmol, 147 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 9.7 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.8 mmol, 182 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2.3 ml | C(C)O | C2H6O
product | ethyl 5-chloropyridin-2-carboxylate | ClC=1C=CC(=NC1)C(=O)OCC | C8H8ClNO2
